US06881733B1
cis-1-benzyl-3-methyl-4-(5-fluorobenzofur-4-yl)piperidine
Beginning with 0.50 gm (1.47 mMol) 1-benzyl-3-methyl-4-hydroxy-4-(5-fluorobenzofur-4-yl)piperidine, 1-benzyl-3-methyl-4-(methyl oxoacetoxy)-4-(5-fluorobenzofur-4-yl)piperidine was prepared essentially as described in EXAMPLE 16. This material was treated with tri(n-butyl)tin hydride essentially as described in EXAMPLE 16 to prepare 0.43 gm (80%) of the desired compound.

reactant | 1-benzyl-3-methyl-4-hydroxy-4-(5-fluorobenzofur-4-yl)piperidine | 1.47 mMol, 0.50 gm | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=C(C=CC2=C1C=CO2)F)O)C | C21H22FNO2
reactant | 1-benzyl-3-methyl-4-(methyl oxoacetoxy)-4-(5-fluorobenzofur-4-yl)piperidine | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=C(C=CC2=C1C=CO2)F)OC(C(=O)C)=O)C | C24H24FNO4
reactant | tri(n-butyl)tin hydride | C(CCC)[SnH](CCCC)CCCC
product | cis-1-benzyl-3-methyl-4-(5-fluorobenzofur-4-yl)piperidine | 0.43 gm, 80% | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)C1=C(C=CC2=C1C=CO2)F)C | C21H22FNO
